US04560686
To 1.92 g (0.01 mol) of 1-(2-methoxyphenyl)piperazine, 1.01 g (0.01 mol) of triethylamine, 150 ml of toluene and 2.28 g (0.01 mol) of N-(2-bromoethyl)benzamide were added, and the mixture was refluxed for 3-4 hours under stirring. After the reaction, the solvent was concentrated under vacuum to half of its original volume, and a mixture of the residue with water was extracted with ethyl acetate. After separating the solvent layer, the aqueous layer was further extracted with ethyl acetate, and a mixture of the extract with the previously separated solvent layer was washed with water. To the organic layer, 1N HCl was added until the pH became 3.0, and the aqueous layer was separated. The separated aqueous layer was neutralized with aqueous sodium bicarbonate, and extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride, dried with Glauber's salt, and distilled under vacuum to remove the solvent. The resulting residue was mixed with benzene-ether to provide 2.03 g (yield: 60%) of crystalline 1-(2-methoxyphenyl)-4-(2-benzoylaminoethyl)piperazine. Recrystallization from a mixture of isopropyl alcohol and ether gave a colorless needles having a melting point of 139°-140° C.

reactant | 1-(2-methoxyphenyl)piperazine | 0.01 mol, 1.92 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | triethylamine | 0.01 mol, 1.01 g | C(C)N(CC)CC | C6H15N
reactant | N-(2-bromoethyl)benzamide | 0.01 mol, 2.28 g | BrCCNC(C1=CC=CC=C1)=O | C9H10BrNO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-methoxyphenyl)-4-(2-benzoylaminoethyl)piperazine | 2.03 g, yield: 60% | COC1=C(C=CC=C1)N1CCN(CC1)CCNC(C1=CC=CC=C1)=O | C20H25N3O2
